US05777132
Preparation of 2-(p-Chlorophenyl)-1-isopropyl-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of N-(p-chloro-α-cyanobenzyl)-2,2,2-trifluoro-N-isopropylacetamide (6.1 g, 0.02 mol) in toluene is treated at room temperature with tetrafluoroboric acid diethyl etherate (4.2 g as is, 3.6 g real, 0.022 mol) under a nitrogen atmosphere, heated to 60° C., treated with 2-chloroacrylonitrile (2.62 g, 0.03 mol) over 15-20 minutes, held at 60° C. for 3 hours, cooled to room temperature and treated with ethyl acetate and water. The phases are separated and the organic phase is washed with water and concentrated to give a brown gum residue. Flash column chromatography of the residue on silica gel packed and eluted with 15% ethyl acetate in heptane gives the title product as a brown oil, 1.3 g (20.8% yield), identified by 1H and 19F NMR and mass spectral analyses.

reactant | N-(p-chloro-α-cyanobenzyl)-2,2,2-trifluoro-N-isopropylacetamide | 0.02 mol, 6.1 g | ClC1=CC=C(C(C#N)N(C(C(F)(F)F)=O)C(C)C)C=C1 | C13H12ClF3N2O
reactant | 2-chloroacrylonitrile | 0.03 mol, 2.62 g | ClC(C#N)=C | C3H2ClN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(p-Chlorophenyl)-1-isopropyl-5-(trifluoromethyl)pyrrole-3-carbonitrile | 20.8% yield | ClC1=CC=C(C=C1)C=1N(C(=CC1C#N)C(F)(F)F)C(C)C | C15H12ClF3N2
